US08912188B2
To a solution of 2-methyl-1H-indole (5.0 g, 38.12 mmol) in sulfuric acid (80 mL) was added Ag2SO4 (12.5 g, 40.06 mmol) with ice cooling, and the solution was stirred for 30 min. Then Br2 (6.4 g, 40.05 mmol) was added to the solution dropwise over 30 min. After the solution was stirred for 4 h at room temperature, the reaction was then quenched by the addition of water/ice (300 mL). The reaction mixture was extracted with dichloromethane (3×200 mL) and the organic layers combined, dried over anhydrous sodium sulfate and concentrated in vacuo to afford 5-bromo-2-methyl-1H-indole as a light brown solid (6 g, 75%).

reactant | 2-methyl-1H-indole | 38.12 mmol, 5.0 g | CC=1NC2=CC=CC=C2C1 | C9H9N
reactant | Br2 | 40.05 mmol, 6.4 g | BrBr | Br2
solvent | sulfuric acid | 80 mL | S(O)(O)(=O)=O | H2O4S
catalyst | Ag2SO4 | 40.06 mmol, 12.5 g | [O-]S(=O)(=O)[O-].[Ag+].[Ag+]
product | 5-bromo-2-methyl-1H-indole | 6 g, 75% | BrC=1C=C2C=C(NC2=CC1)C | C9H8BrN
